US08211904B2
Step 3: N-(1,1-dimethylsilolan-3-yl)-4-methylbenzenesulfonamide
To a 0° C. solution of 3,3-dimethyl-6-[(4-methylphenyl)sulfonyl]-6-aza-3-silabicyclo[3.1.0]hexane (0.5 g, 1.8 mmol) in THF (10 ml) was added lithium aluminum hydride (11.0M THF, 5.33 mL, 5.33 mol). After stirring at rt overnight, the reaction was quenched by the sequential addition of H2O (0.2 mL), 1N NaOH (0.2 mL), and H2O (0.6 mL). The mixture was filtered through a pad of celite and concentrated under vacuum. Purification by silica gel chromatography (20% EtOAc/hexanes) afforded the desired product.

reactant | 3,3-dimethyl-6-[(4-methylphenyl)sulfonyl]-6-aza-3-silabicyclo[3.1.0]hexane | 1.8 mmol, 0.5 g | C[Si]1(CC2N(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)C | C13H19NO2SSi
reactant | lithium aluminum hydride | 5.33 mol, 11.0M, 5.33 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(1,1-dimethylsilolan-3-yl)-4-methylbenzenesulfonamide | C[Si]1(CC(CC1)NS(=O)(=O)C1=CC=C(C=C1)C)C | C13H21NO2SSi
